US07632840B2
N2-({4-[(3-chloro-2-fluorophenyl)amino]-7-methoxyquinazolin-6-yl}methyl)-2-methylalaninamide
N-(3-Chloro-2-fluorophenyl)-6-(chloromethyl)-7-methoxyquinazolin-4-amine (0.2 g, 0.568 mmol) was coupled with 2-methylalaninamide hydrochloride using an analogous method to that described for the equivalent step in Example 62 to give the title product (0.12 g, 49.1%); Mass Spectrum: (M+H)+ 418.

reactant | N-(3-Chloro-2-fluorophenyl)-6-(chloromethyl)-7-methoxyquinazolin-4-amine | 0.568 mmol, 0.2 g | ClC=1C(=C(C=CC1)NC1=NC=NC2=CC(=C(C=C12)CCl)OC)F | C16H12Cl2FN3O
reactant | 2-methylalaninamide hydrochloride | Cl.CC(N)(C)C(=O)N
product | N2-({4-[(3-chloro-2-fluorophenyl)amino]-7-methoxyquinazolin-6-yl}methyl)-2-methylalaninamide | 0.12 g, 49.1% | ClC=1C(=C(C=CC1)NC1=NC=NC2=CC(=C(C=C12)CNC(C)(C(=O)N)C)OC)F | C20H21ClFN5O2
